US08476302B2
A solution of 1 M NaOH (17.8 mL) was added to a refluxing mixture of 3-fluorophenol (2 g, 17.8 mmol) and 5-bromo-1-hexanol (3.23 g, 17.8 mmol) in water (20 mL). After 3 h, the resulting mixture was cooled to room temperature and diluted with diethyl ether. The layers were separated, the organic layer was washed sequentially with 1N NaOH and water, then dried (Na2SO4) and concentrated to yield 6-(3-fluorophenoxy)hexan-1-ol as an oil. A solution of 6-(3-fluorophenoxy)hexan-1-ol (2.9 g, 13.67 mmol) was added dropwise to a mixture of 1,1,1-tris(acetyloxy)1,1-dihydro-1,2-benziodoxol-3-(1H)-one (7.0 g, 16.4 mmol) with ice-bath cooling. The resulting solution was stirred for 2.5 h at room temperature, then poured into a solution of sodium thiosulfate in saturated aqueous sodium bicarbonate. After 0.5 h, the layers were separated and the aqueous layer was extracted with CH2Cl2. The organic phase was dried (Na2SO4) filtered and concentrated to yield 6-(3-fluorophenoxy)hexanal. A solution of 6-(3-fluorophenoxy)hexanal (2.9 g, 13.8 mmol) in ethyl acetate (20 mL) and water (20 mL) containing NaCN (2 g, 41.4 mmol) was stirred vigorously overnight. After 20 h, the phases were separated and the aqueous layer was extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with water, dried (Na2SO4) and concentrated to yield 7-(3-fluorophenoxy)-2-hydroxyheptanenitrile, which was dissolved in methanol (40 mL) and cooled to −78° C. The solution was saturated with HCl (g) and stored at −10° C. for 18 h. The resulting mixture was concentrated, diluted with ethyl acetate (40 mL) and water (40 mL), then stirred overnight. The layers were separated and the organic phase was dried (Na2SO4) and concentrated to yield the corresponding methyl ester which was dissolved in 9:1 dioxane:water (20 mL) and treated with a solution of LiOH (1.4 g, 58 mmol). The resulting solution was stirred for 4 h then acidified to pH˜3 with 1N HCl. The mixture was then extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed with water, dried (Na2SO4) and concentrated to yield 7-(3-fluorophenoxy)-2-hydroxyheptanoic acid as a white solid. (MS m/z=257 MH+).

reactant | 6-(3-fluorophenoxy)hexan-1-ol | 13.67 mmol, 2.9 g | FC=1C=C(OCCCCCCO)C=CC1 | C12H17FO2
reactant | Dess-Martin periodinane | 16.4 mmol, 7.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-(3-fluorophenoxy)hexanal | FC=1C=C(OCCCCCC=O)C=CC1 | C12H15FO2
